US05350523
83.16 g of p-chlorostyrene was reacted with metal magnesium at 35° C. for 5 hours under stirring in tetrahydrofuran flushed with nitrogen to obtain a magnesium composite. This composite was dropwise added to a solution mixture comprising tetrahydrofuran, 1,3-dibromopropane and Li2CuCl4 at 30° C. The reaction was continued at 30° C. for two hours. Then, the obtained product was fractionated by distillation. 3-bromopropylstyrene was obtained under 0.2 Torr at 110° C., and the yield based on the starting material pchlorostyrene was 47%. Identification of 3-bromopropylstyrene was conducted by the NMR method.

reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-bromopropylstyrene | BrCCCC=CC1=CC=CC=C1 | C11H13Br
